US04939137
The title compound was produced following the procedure of Example 1 using 9.91 g (23 mmol) of 3-[5-[4-(2-methoxyphenyl)piperazin-1-yl]pentyl]thieno[3,4-d]-pyrimidine-2,4-dione in DMF for several days to produce methyl 3-[3-[5-[4-(2-methoxyphenyl)piperazin-1-yl]pentyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate in 23% yield (2.8 g). A portion of this material was converted to its brown hydrochloride salt using 2-propanol/HCl.

reactant | 3-[5-[4-(2-methoxyphenyl)piperazin-1-yl]pentyl]thieno[3,4-d]-pyrimidine-2,4-dione | 23 mmol, 9.91 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCCCN1C(NC=2C(C1=O)=CSC2)=O | C22H28N4O3S
reactant | DMF | CN(C)C=O | C3H7NO
product | methyl 3-[3-[5-[4-(2-methoxyphenyl)piperazin-1-yl]pentyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate | 23% yield | COC1=C(C=CC=C1)N1CCN(CC1)CCCCCN1C(N(C=2C(C1=O)=CSC2)CCC(=O)OC)=O | C26H34N4O5S
